US04948896
Diethyl 1-amino-1,2-ethylenedicarboxylate (1.7 g) and α-ethylacrolein (0.84 g) are dissolved in n-butanol (10 ml), and thereto is added p-toluenesulfonic acid (35 mg). The mixture is refluxed for 15 hours (the degree of reaction of aminodiester is 97%). After distilling off the solvent, the residue is subjected to silica gel column chromatography, eluting with chloroform/methanol (1:0-1:0.01), to give diethyl 5-ethylpyridine-2,3-dicarboxylate (1.93 g., 84.6%). The product has a purity of 92.2% by liquid chromatographic analysis.

reactant | Diethyl 1-amino-1,2-ethylenedicarboxylate | 1.7 g | NC(CC(=O)OCC)C(=O)OCC | C8H15NO4
reactant | α-ethylacrolein | 0.84 g | C(C)C(=O)C=C | C5H8O
reactant | n-butanol | 10 ml | C(CCC)O | C4H10O
catalyst | p-toluenesulfonic acid | 35 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | diethyl 5-ethylpyridine-2,3-dicarboxylate | 1.93 g, 84.6% | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
